US04267325
1,2,3,4-Tetrahydro-2,3-dioxoquinoxaline-6-sulphonic acid
2,3(1H, 4H)-Quinoxalinedione (10 g) was added portionwise to a stirred mixture of 65% fuming sulphuric acid (10 ml) and conc. sulphuric acid (40 ml) at room temperature. After stirring for 30 minutes at 55°-60°, the mixture was worked up as in example 1 to give the hydrated crystalline product (15.3 g, mp. >300°).

reactant | 2,3(1H, 4H)-Quinoxalinedione | 10 g | N1C(C(NC2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | sulphuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1,2,3,4-Tetrahydro-2,3-dioxoquinoxaline-6-sulphonic acid | 15.3 g | O=C1NC2=CC=C(C=C2NC1=O)S(=O)(=O)O | C8H6N2O5S
